US05098930
Using the procedure described in Example 5, 2-bromomethylnaphthalene was reacted with methyl 5-iodosalicylate to give methyl 5-iodo-2-(naphth-2-ylmethoxy)benzoate (68%). Using conventional procedures the ester was hydrolysed with base to give the corresponding acid; the acid chloride was prepared by reaction with oxalyl chloride; and the acid chloride was reacted with ethanolic ammonia to give 5-iodo-2-(naphth-2-ylmethoxy)benzamide (84% from the ester), m.p. 163° C. The benzamide so obtained was reacted with trifluoroacetic anhydride in the presence of pyridine and dimethoxyethane as reaction solvent. There was thus obtained 3-cyano-4-(naphth-2-ylmethoxy)phenyl iodide (72%), m.p. 108°-110° C.

reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | methyl 5-iodosalicylate | IC1=CC=C(C(C(=O)OC)=C1)O | C8H7IO3
product | methyl 5-iodo-2-(naphth-2-ylmethoxy)benzoate | 68% | IC=1C=CC(=C(C(=O)OC)C1)OCC1=CC2=CC=CC=C2C=C1 | C19H15IO3
